US05444080
A solution of ethyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]propionate (0.71 g, 1.94 mmol) in water (10 mL) and methanol (5 mL) was treated with potassium carbonate (0.51 g, 3.7 mmol). The reaction mixture was refluxed on a steam bath for 2 hours, the methanol was evaporated, the aqueous layer was washed with diethyl ether, cooled in ice, and adjusted to pH 3.4 with aqueous hydrochloric acid solution. The resulting gummy solid was extracted into methylene chloride, washed with water, dried, and concentrated. The residue was triturated with diethyl ether to give 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]propionic acid; mp 170°-172° C.

reactant | ethyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]propionate | 1.94 mmol, 0.71 g | ClC1=C(C=CC=C1)CN1C(=NC=C1C(C(=O)OCC)C)SCCC | C18H23ClN2O2S
reactant | potassium carbonate | 3.7 mmol, 0.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]propionic acid | ClC1=C(C=CC=C1)CN1C(=NC=C1C(C(=O)O)C)SCCC | C16H19ClN2O2S
